Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor
 
Attending: ___.
 
Chief Complaint:
palpitations, CP, SOB  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ with DM (diet controlled), hypothyroid, depression 
(on buproprion)otherwise no major cardiac history presents with 
___ mo h/o palpitations, presents overngiht with worsening 
palpitations and associated with lightheadedness, SOB x1hr prior 
to arrival with L sided chest pain. She has had several previous 
episodes of palpitations, first lasted half an hour, second a 
little longer, neither associated with chest pain (per pt more 
feeling heart beating very hard). Pt was seen by her PCP ___. 
___ ___ with c/o palpitations and dizziness, and had 
office EKG with NSR. CBC and TSH were checked and normal and 
echo was normal.  
.  
EMS was called and she was found to have new AFib with RVR to 
180, and was converted in the field with 15mg IV dilt.  
. 
In the ED: 97.6 100 90/55 (this appears to be only a little 
below baseline per OMR records and per her) 16 97 RA. She was in 
sinus in the ED. Labs with chem7 HCO3 20, BUN 23, Glucose 251, 
otherwise normal. CBC normal. Trop/CK/MB negative. She was given 
ASA 325 and 2L NS.  
.  
She denies any new med changes, any infectious localizing 
sources. On the floor, her EKG shows a NSR and is normal. She 
currently feels "pretty good" and does not look ill.  
.  
Review of Systems: As above, also with increased fatigue noted 
with usual walks and daily activities (hasn't prevented her from 
doing them but she feels more tired). Also reports chronic 
constipation and diarrhea which she associated w/taking fish 
oil; denies blood in stool or burning on urinatin. She 
acknowledges ___ swelling at end of day that resolves 
w/elevation. Otherwise, no f/c/ns, vision changes, HEENT 
problems, SOB, DOE, dysphagia, n/v/d/abd pain, PND, orthopnea.  
.  

 
Past Medical History:
Past Medical History:  
1. Impaired glucose tolerance/borderline DMII (diet controlled, 
not on meds)  
2. Hypothyroidism  
3. Osteoporosis - last bone density was in ___, did not  
tolerate bisphosphonate after very short trial.  
4. Hyperlipidemia - with statin intolerance  
5. Cataracts  
6. Diverticulosis - colonoscopy ___ ago 
7. Depression: recurred in ___, seen by ___  
8. She denies any AMI's, CVA's, HTN (actually her bp appears to 
run on the low side) 
 
Social History:
___
Family History:
The patient grew up in a foster home and has no  
children. She didn't know her family so doesn't know much FHx, 
but states has one aunt with throat ca and another with stroke. 
No other known cardiac family hx.
 
Physical Exam:
Vitals: T:96.0  BP:106/64 (105-106/57-64) P:80  ___  SaO2: 
97% RA gluc=95 wgt 60.9 
General: Awake, alert, NAD, pleasant, appropriate, cooperative.  

HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions 
noted in OP, no lymphadenopathy noted  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
Cardiac: RR, nl S1 S2, no tachycardia, no murmurs, rubs or 
gallops appreciated
Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or 
organomegaly noted  
Extremities: No edema, 2+ radial and pedal pulses b/l
Skin: no rashes or lesions noted.  
Neurologic: Alert, oriented x 3. Able to relate history without 
difficulty. Cranial nerves II-XII intact. Moving all 4 
extremeties independently.
 
Pertinent Results:
___ 07:00AM BLOOD WBC-5.3 RBC-3.74* Hgb-11.7* Hct-36.1 
MCV-97 MCH-31.4 MCHC-32.5 RDW-13.3 Plt ___
___ 12:10AM BLOOD WBC-6.9 RBC-4.21 Hgb-13.8 Hct-39.9 MCV-95 
MCH-32.9* MCHC-34.7 RDW-13.6 Plt ___
___ 07:00AM BLOOD Neuts-59.4 ___ Monos-4.9 Eos-1.7 
Baso-0.9
___ 12:10AM BLOOD Neuts-59.7 ___ Monos-5.2 Eos-1.0 
Baso-0.6
___ 07:00AM BLOOD Plt ___
___ 12:10AM BLOOD Plt ___
___ 07:00AM BLOOD Ret Aut-PND
___ 07:00AM BLOOD Glucose-102* UreaN-29* Creat-0.7 Na-141 
K-4.1 Cl-108 HCO3-24 AnGap-13
___ 12:10AM BLOOD Glucose-251* UreaN-23* Creat-1.0 Na-140 
K-3.6 Cl-105 HCO3-20* AnGap-19
___ 07:00AM BLOOD CK(CPK)-PND
___ 12:10AM BLOOD CK(CPK)-84
___ 07:00AM BLOOD CK-MB-PND
___ 12:10AM BLOOD cTropnT-<0.01
___ 12:10AM BLOOD CK-MB-2
___ 07:00AM BLOOD Calcium-7.7* Phos-3.7 Mg-1.9
___ 07:00AM BLOOD TSH-PND
.
___
FINDINGS: There is minimal posterior dependent atelectasis. 
Otherwise, the 
lungs are clear. No pneumothorax, or pleural effusions are 
present. The 
cardiac silhouette, hilar, and mediastinal contours appear 
normal. 
IMPRESSION: No acute cardiopulmonary process. 
.
EKG ___: Done on floor admission, NSR 67, normal axis, normal 
intervals, normal QRS complexes, normal RWP, normal ST segments 
and T waves.  
 
Brief Hospital Course:
Pt is a ___ female with history of DM (diet controlled), 
hypothyroid, depression, no major cardiac disease, who was admit 
with palpitations and found to have atrial fibrillation with 
rapid ventricular response (hr in 180s). On the way to the ED 
the pt was given 15 mg IV of Dilt in the field and converted to 
sinus rhythm.  
.  
While in the hospital, pt was started on metoprolol for rate 
control. In addition, given that she had a CHADS score of 2, she 
was told to begin warfarin on day of discharge and given a 
prescription for warfarin w/outpt follow-up with her PCP and 
cardiologist for additional management. Heparin bridge was not 
felt to be warrented given her low risk and that beginning 
coumadin alone was sufficient. The pt was discharged in stable 
condition w/further workup and managment in the outpt setting.

 
Medications on Admission:
1. Synthroid 50 mcg once daily  
2. buproprion 75 mg BID  
3. Calcium/vitamin D supplement daily  
4. Spectravite senior tab  
5. multivitamin once daily  
6. Fish oil 1 tab bid  
7. VitD 50,000 unit tab once week but pt states she hasn't 
started yet  

 
Discharge Medications:
1. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
2. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
4. Levothyroxine 25 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. Bupropion HCl 75 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
9. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
10. Warfarin 2.5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Fibrillation with rapid ventricular response

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital because you were experiencing 
palpitations, shortness of breath, possible chest pain and 
fatigue. While in the hospital you were found to have atrial 
fibrillation which is an irregularly fast rhythm of your heart. 
You were treated with medications to help your heart to beat at 
a normal rate again. Your symptoms resolved and you were 
discharged home.
. 
The following changes were made you your medications:
- Please START taking Metroprolol Succinate 25mg daily
- Please START taking Coumadin 2.5mg daily
- Please continue to take all of your other home medications as 
prescribed.
Please be sure to take all medication as prescribed.
.
Because you are starting Coumadin, you will need to have your 
INR checked on WED ___. The INR indicates whether or note 
your blood is suficiently anticoagulated to prevent clots from 
forming in your heart if the irregular heart rhytm recurs. This 
colts pose a stroke risk which is why it is important to take 
your Coumadin and monitor your INR.
.
Please be sure to keep all follow-up appointments with your PCP 
and your cardiologist.
.
It was a please taking care of you and we wish you a speedy 
recovery.
. 

 
Followup Instructions:
___